US05641772
5,11-Dihydro-11-[[4-[3-[(4-methoxybenzoyl)ethylamino]-propyl]-1-piperidinyl]acetyl]-6H-pyrido[2,3-b][1,4]-benzodiazepin-6-one dihydrochloride
Prepared analogously to Example 1 from 5,11-dihydro-11-[[4-[3-(ethylamino)propyl]-1-piperidinyl]acetyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one and 4-methoxybenzoic acid chloride. The free base is dissolved in ethyl acetate and the dihydrochloride is precipitated by the addition of ethereal hydrochloric acid. The desired compound is obtained in a yield of 81% by recrystallisation from ethanol.

reactant | 5,11-dihydro-11-[[4-[3-(ethylamino)propyl]-1-piperidinyl]acetyl]-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | C(C)NCCCC1CCN(CC1)CC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C24H31N5O2
reactant | 4-methoxybenzoic acid chloride | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5,11-Dihydro-11-[[4-[3-[(4-methoxybenzoyl)ethylamino]-propyl]-1-piperidinyl]acetyl]-6H-pyrido[2,3-b][1,4]-benzodiazepin-6-one dihydrochloride | yield of 81% | Cl.Cl.COC1=CC=C(C(=O)CCNCCCC2CCN(CC2)CC(=O)N2C3=C(NC(C4=C2C=CC=C4)=O)C=CC=N3)C=C1 | InChI=1S/C32H37N5O4.2ClH/c1-41-25-12-10-24(11-13-25)29(38)14-19-33-17-4-6-23-15-20-36(21-16-23)22-30(39)37-28-9-3-2-7-26(28)32(40)35-27-8-5-18-34-31(27)37;;/h2-3,5,7-13,18,23,33H,4,6,14-17,19-22H2,1H3,(H,35,40);2*1H
